* C:\Users\avent\OneDrive\Documents\EE499-FYP\LTSpice Boost Converter\LTC1871_BOM_Caps_Rev4.asc
* Generated by LTspice 24.1.10 for Windows.
M§Q1 N003 N007 0 0 IRF7811
R1 N008 0 68.1K
R2 N009 0 56K
R3 OUT N009 499K
L1 IN N003 10µ
D1 N003 OUT MBR735
C1a OUT 0 132µ Rser=0.00021
C1b OUT 0 20µ Rser=0.00125
R4 N005 N004 8.66K
C2 N004 0 6.8n
C3 N005 0 100p
X§U1 IN N006 N009 N008 N002 0 N007 N001 IN N003 LTC1871 ;§pnba Run)Ith)FB)Freq)Mode)GND)Gate)INTVcc)Vin)Sense
V1 IN 0 {VIN}
C4 N001 0 4.7µ
I1 OUT 0 PWL(0 0.1 0.005 0.1 0.0055 1.5 0.0065 1.5 0.007 .1 0.008 .1 0.0085 2 0.0095 2 0.010 .1)
D2 N006 N005 1N4148
C1 N005 0 10n
.model D D
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.mos
.param VIN=9.6
.tran 0 10m 5m
.meas TRAN Vout_before AVG V(OUT) FROM 0 TO 0.4m
.meas TRAN Vout_droop1 MIN V(OUT) FROM 0.5m TO 1.4m
.meas TRAN Vout_recov1 FIND TIME WHEN V(OUT)=12.15 CROSS=2 TD=0.5m
.meas TRAN Vout_idle AVG V(OUT) FROM 2.1m TO 3.4m
.meas TRAN Vout_droop2 MIN V(OUT) FROM 3.5m TO 4.4m
.meas TRAN Vout_recov2 FIND TIME WHEN V(OUT)=12.15 CROSS=2 TD=3.5m
.meas TRAN Vout_ripple PP V(OUT) FROM 3.6m TO 4.4m
.meas TRAN IL_peak MAX I(L1) FROM 0 TO 0.4m
.meas TRAN Pin AVG V(IN)*(-I(V1)) FROM 3.6m TO 4.4m
.meas TRAN Pout AVG V(OUT)*I(I1) FROM 3.6m TO 4.4m
.meas DC_dev RMS V(out) - 12.1985
* BOM Output Cap Bank (Rev 4 --- 1-Apr-2026):
* C1a = 6x22uF GRM31CR61E226M 1206 MLCC 25V | Nominal: 132uF | Rser(bank) = 0.21mOhm
* C1b = 2x10uF GRM21BR61E106K 0805 MLCC 25V | Nominal: 20uF  | Rser(bank) = 1.25mOhm
* Total nominal: 152uF | Est. ~104uF eff. after DC-bias derating at 12V | Predicted ripple ~196mV | Target: <240mV (2%)
* NOTE: All .meas FROM/TO times are RELATIVE to Tstart=5ms (i.e. t=0 here = absolute 5ms, t=5m here = absolute 10ms)
.lib LTC1871.sub
.backanno
.end
